US06596772B1
{4-[4-(2-Nitro-4-trifluoromethanesulfonyl-phenoxy)-benzenesulfonyl]-phenoxy}-acetic acid ethyl ester (17).
Using procedure as in example 10, a reaction of ethyl [4-(4-hydroxyphenylsulfonyl)phenoxy]acetate (100 mg, 0.297 mmol), NaH (13 mg, 1.1 equiv.) and 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene (86 mg, 1 equiv.) afforded{4-[4-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-benzenesulfonyl]-phenoxy}-acetic acid ethyl ester. 1HNMR (300 MHz, DMSO-d6) δ 8.79 (d, J=2.3 Hz, 1H), 8.29 (dd, J=2.3 & 9.0 Hz, 1H), 8.07 (d, J=8.9 Hz, 2H), 7.92 (d, J=8.9 Hz, 2H), 7.52 (d, J=8.9 Hz, 2H), 7.47 (d, J=9.0 Hz, 1H), 7.14 (d, J=8.9 Hz, 2H), 4.91 (s, 2H, CH2), 4.15 (q, J=7.2 Hz, 2H, OCH2CH3), 1.19 (t, J=7.2 Hz, 3H, OCH2CH3). MS-EI m/z 589 [M+].

reactant | ethyl [4-(4-hydroxyphenylsulfonyl)phenoxy]acetate | 0.297 mmol, 100 mg | OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(OCC(=O)OCC)C=C1 | C16H16O6S
reactant | NaH | 13 mg, 1.1 equiv. | [H-].[Na+]
reactant | 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene | 86 mg, 1 equiv. | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)Cl | C7H3ClF3NO4S
product | {4-[4-(2-Nitro-4-trifluoromethanesulfonyl-phenoxy)-benzenesulfonyl]-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)OC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])=O | C23H18F3NO10S2
